US05977134
Step 1: Preparation of 7-amino-2-trifluoroacetoxy-1,2,3,4-tetrahydroisoquinoline
A solution of 7-nitro-2-trifluoroacetoxy-1,2,3,4-tetrahydroisoquinoline (Stokker, Tetrahedron Letts., 1996, 37, 5453; 3.64 g, 13.3 mmol) in 100 mL EtOH at room temperature was was purged with argon and 10% palladium on carbon (300 mg) added. The mixture was then stirred under an atmosphere of hydrogen gas for 2 h. then filtered and the solvent removed in vacuo to yield a white solid which was sufficiently pure for use in the next step.

reactant | 7-nitro-2-trifluoroacetoxy-1,2,3,4-tetrahydroisoquinoline | 13.3 mmol, 3.64 g | [N+](=O)([O-])C1=CC=C2CCN(CC2=C1)OC(C(F)(F)F)=O | C11H9F3N2O4
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 7-amino-2-trifluoroacetoxy-1,2,3,4-tetrahydroisoquinoline | NC1=CC=C2CCN(CC2=C1)OC(C(F)(F)F)=O | C11H11F3N2O2
